US05071999
a) Ethyl N-(2-fluoromethylallyl)-N-(2,2-dimethoxyethyl) -carbamate
8 g (0.26 mol) of sodium hydride (80% pure) are initially introduced into 200 ml of toluene and 35.8 g (0.2 mol) of ethyl N-(2,2-dimethoxyethyl)-carbamate are added dropwise at 90° C. The mixture is then stirred for one hour at 90° C. and 32.6 g (0.3 mol) of 1-chloro-2-fluoromethylprop-2-ene are then added dropwise. The mixture is stirred overnight at 90° C., salts are dissolved in water, and the aqueous phase is separated off and extracted with toluene. The organic phases are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | sodium hydride | 0.26 mol, 8 g | [H-].[Na+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl N-(2,2-dimethoxyethyl)-carbamate | 0.2 mol, 35.8 g | COC(CNC(OCC)=O)OC | C7H15NO4
reactant | 1-chloro-2-fluoromethylprop-2-ene | 0.3 mol, 32.6 g | ClCC(=C)CF | C4H6ClF
solvent | water | O | H2O
product | Ethyl N-(2-fluoromethylallyl)-N-(2,2-dimethoxyethyl) -carbamate | FCC(CN(C(OCC)=O)CC(OC)OC)=C | C11H20FNO4
